US04215037
7. Ddz-Gly-Ile-OH
10 g (23.56 mmols) of Ddz-Gly-Ile-OMe were dissolved in a mixture of 24 ml of dioxane and 8 ml of water and titrated with 1 N NaOH against thymolphthalein as indicator. Over 23 ml were consumed depending on the acetic acid content. After neutralization with citric acid, the dioxane was distilled off. The residue was taken up in water and a pH of 3 was adjusted at 0° C. with 2 N citric acid. If necessary, the aqueous phase was again acidified to pH 3 and extracted with ethyl acetate. The combined ethyl acetate extracts were shaken once with water, dried over Na2SO4, concentrated and dried again in a high vacuum. An amorphous substance was obtained. Yield 8.9 g (92%), m.p. 80°-90° C.

reactant | Ddz-Gly-Ile-OMe | 23.56 mmols, 10 g | N(CC(=O)N[C@@H]([C@@H](C)CC)C(=O)OC)C(=O)OC(C)(C)C1=CC(OC)=CC(OC)=C1 | C21H32N2O7
reactant | NaOH | 1 N | [OH-].[Na+]
reactant | thymolphthalein | CC1=CC(=C(C=C1C2(C3=CC=CC=C3C(=O)O2)C4=CC(=C(C=C4C)O)C(C)C)C(C)C)O | C28H30O4
solvent | dioxane | 24 ml | O1CCOCC1 | C4H8O2
solvent | water | 8 ml | O | H2O
product | Ddz-Gly-Ile-OH | N(CC(=O)N[C@@H]([C@@H](C)CC)C(=O)O)C(=O)OC(C)(C)C1=CC(OC)=CC(OC)=C1 | C20H30N2O7
